US07632832B2
Step D. Benzyl 4-((tert-butoxycarbonyl){2-[(tert-butylsulfinyl)amino]-2-pyridin-4-ylethyl}amino)piperidine-1-carboxylate
4-Bromopyridine (360 mg, 2.28 mmol) in ether (5 mL) was added dropwise to a solution of n-butyllithium (2.5 M, 1.0 μL, 2.5 mmol) in ether (15 mL) at −78° C. After 30 min, benzyl 4-((tert-butoxycarbonyl) {(2E)-2-[(tert-butylsulfinyl)imino]ethyl}amino)piperidine-1-carboxylate (364 mg, 0.759 mmol) in ether (6 mL) was added to the mixture. After 1 h, the reaction was warmed to ambient temperature, quenched with saturated ammonium chloride solution (2 mL), and partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography chromatography (75%-100% ethyl acetate/hexanes) to give the title compound (230 mg). MS 559.2 (M+1)

reactant | 4-Bromopyridine | 2.28 mmol, 360 mg | BrC1=CC=NC=C1 | C5H4BrN
reactant | n-butyllithium | 2.5 mmol, 2.5 M, 1.0 μL | C(CCC)[Li]
reactant | benzyl 4-((tert-butoxycarbonyl) {(2E)-2-[(tert-butylsulfinyl)imino]ethyl}amino)piperidine-1-carboxylate | 0.759 mmol, 364 mg | C(C)(C)(C)OC(=O)N(C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C/C=N/S(=O)C(C)(C)C | C24H37N3O5S
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | ether | 6 mL | CCOCC | C4H10O
product | Benzyl 4-((tert-butoxycarbonyl){2-[(tert-butylsulfinyl)amino]-2-pyridin-4-ylethyl}amino)piperidine-1-carboxylate | 230 mg | C(C)(C)(C)OC(=O)N(C1CCN(CC1)C(=O)OCC1=CC=CC=C1)CC(C1=CC=NC=C1)NS(=O)C(C)(C)C | C29H42N4O5S
